US05686610
4-(N-methyl-N-(3-nitro-2-pyridinyl)amino)piperidine
Trifluoroacetic acid (13.0 ml) is added to a solution of 1-((1,1-dimethylethoxy)-carbonyl)-4-(N-methyl-N-(3-nitro-2-pyridinyl)amino)piperidine (PREPARATION 49) in methylene chloride (100 ml) with cooling to -78°. The mixture is warmed to 20°-25°, stirred 17 hrs, cooled to 0° and basified to pH 12 with 5% sodium hydroxide. The phases are separated and the aqueous phase is extracted with methylene chloride (2×50 ml). The combined organic phases are dried over sodium sulfate and concentrated to give the title compound, mp 115.5°-117°.

reactant | Trifluoroacetic acid | 13.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-((1,1-dimethylethoxy)-carbonyl)-4-(N-methyl-N-(3-nitro-2-pyridinyl)amino)piperidine | CC(C)(OC(=O)N1CCC(CC1)N(C1=NC=CC=C1[N+](=O)[O-])C)C | C16H24N4O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(N-methyl-N-(3-nitro-2-pyridinyl)amino)piperidine | CN(C1=NC=CC=C1[N+](=O)[O-])C1CCNCC1 | C11H16N4O2
